US06610738B2
2′-Methoxyflavone
A solution of 1-(2-hydroxyphenyl)-3-(2-methoxyphenyl)-propan-1,3-dione (27 g, 0.1 mol) in acetic acid (130 ml) and concentrated sulfuric acid (5 ml) were placed in a flask fitted with a reflux condenser and a stirrer. The flask was heated in a bath maintained at 100° C. for an hour. Then the reaction mixture was poured onto crushed ice (750 g). The solid was filtered off, washed with water, dried and crystallized from methanol to give 24.3 g (96.2%) of the compound (m.p.: 97-98.5° C.). In the literature (J. Org. Chem., 27, 381 (1962)), 102-103° C. is given for the product melting point.

reactant | 1-(2-hydroxyphenyl)-3-(2-methoxyphenyl)-propan-1,3-dione | 0.1 mol, 27 g | OC1=C(C=CC=C1)C(CC(=O)C1=C(C=CC=C1)OC)=O | C16H14O4
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 2′-Methoxyflavone | 24.3 g, 96.2% | COC1=C(C=2OC3=CC=CC=C3C(C2)=O)C=CC=C1 | C16H12O3
